US03952001
Novel intermediate compounds used in the preparation described above were prepared as follows. N-ethyl-N-2-methoxyethylamine, b.p. 115° - 116°C., was prepared by reaction of 3 molecular proportions of ethylamine with 1 molecular proportion of 1-bromo-2-methoxyethane in aqueous solution containing 1 equivalent of sodium hydroxide at 30° - 50°C. To a stirred solution of 89.1 g. phosgene in 500 ml. dry ether at -20°C. was added a solution of 30.9 g. N-ethyl-N-2-methoxyethylamine in 50 ml. dry ether, maintaining the temperature of the reaction mixture at -20°C. The stirred mixture was then allowed to warm to room temperature during 1 hour. The reaction mixture was filtered and the filtrate evaporated in vacuo below 25°C. to remove the solvent and give the product, N-(2-methoxyethyl)-N-ethylcarbamoyl chloride as a pale yellow liquid.

reactant | N-ethyl-N-2-methoxyethylamine | C(C)NCCOC | C5H13NO
reactant | ethylamine | C(C)N | C2H7N
reactant | 1-bromo-2-methoxyethane | BrCCOC | C3H7BrO
reactant | sodium hydroxide | 1 equivalent | [OH-].[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | ether | CCOCC | C4H10O
product | N-(2-methoxyethyl)-N-ethylcarbamoyl chloride | COCCN(C(=O)Cl)CC | C6H12ClNO2
